US08957062B2
Preparation of 1-(azetidin-1-yl)-2-(3-fluoro-4-hydroxyphenyl)ethanone
To a solution of (3-fluoro-4-methoxyphenyl)acetic acid (0.94 g, 5.52 mmol) in 8 ml anhydrous DMF at RT was added azetidine (0.379 g, 6.63 mmol) and N,N-diisopropylethylamine (2.89 ml, 16.6 mmol), and EDC (1.59 g, 8.29 mmol) was added into the solution and stirred at RT for 4 hrs. The residue was purified by reverse-phase HPLC (SunFire Prep C18 OBD 5 um 19×100 mm column; 10-100% acetonitrile in 0.1% formic acid in water gradient), to give the title compound. LC/MS (m/z) 210.2 (M+15)+.

reactant | (3-fluoro-4-methoxyphenyl)acetic acid | 5.52 mmol, 0.94 g | FC=1C=C(C=CC1OC)CC(=O)O | C9H9FO3
reactant | azetidine | 6.63 mmol, 0.379 g | N1CCC1 | C3H7N
reactant | N,N-diisopropylethylamine | 16.6 mmol, 2.89 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EDC | 8.29 mmol, 1.59 g
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-(azetidin-1-yl)-2-(3-fluoro-4-hydroxyphenyl)ethanone | N1(CCC1)C(CC1=CC(=C(C=C1)O)F)=O | C11H12FNO2
